US09085540B2
To a mixture of 1-methyl-5-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-pyrazol-3-amine (574 mg) and ethanol (10 mL) was added 10% palladium-supported carbon (50% wet product) (318 mg), followed by stirring for 5 hours under a hydrogen gas atmosphere (4 atm). The reaction mixture was filtered through celite and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH2 type, eluent; chloroform:methanol=100:0-95:5), and the obtained solid was washed with diisopropyl ether:ethyl acetate (10:1) to obtain 1-methyl-5-(1-methylpiperidin-4-yl)-1H-pyrazol-3-amine (367 mg) as a colorless solid.

reactant | 1-methyl-5-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-pyrazol-3-amine | 574 mg | CN1N=C(C=C1C=1CCN(CC1)C)N | C10H16N4
catalyst | palladium | 318 mg | [Pd] | Pd
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-methyl-5-(1-methylpiperidin-4-yl)-1H-pyrazol-3-amine | 367 mg | CN1N=C(C=C1C1CCN(CC1)C)N | C10H18N4
